US06969710B2
4-Butoxy-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 4-n-butoxybenzenesulfonylchloride (59 mg, 0.239 mmol) according to general method 3 to give 70 mg of a purple solid. MS (posES-FIA) m/z=Found: 545.2. Calcd 545.18. 1H-NMR δ 7.73-7.45 (m, 7H), 6.95-6.91 (m, 2H), 6.72-6.70 (m, 1H), 4.00 (t, 2H), 3.29-3.24 (m, 8H), 1.79-1.70 (m, 2H), 1.55-1.43 (m, 2H), 0.97 (t, 3H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 4-n-butoxybenzenesulfonylchloride | 0.239 mmol, 59 mg | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
product | 4-Butoxy-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C26H32N4O5S2
